### PR TITLE
feat(CategoryTheory): define forgetful-core adjunction between Cat and Grpd

### PR DESCRIPTION
**Pull request by Jlh18**
* Define `CategoryTheory.Core.functor`: the functor `Cat ⥤ Grpd` that on objects takes
  the core of a category
* Define `CategoryTheory.Core.adjunction`: the adjunction with the forgetful functor
  `Grpd.forgetToCat` on the left, and the core functor `Core.functor` on the right.
* Hence provide an instance that `Grpd.forgetToCat` is coreflective.

---

- [x] depends on: #29284 [Extra lemmas in CategoryTheory.Core]

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+namespace Core
+
+variable {G : Type u₁} [Groupoid.{v₁} G] {C : Type u} [Category.{v} C]
+
+/-- The functor from `Cat` to `Grpd` that takes the core of a category, on objects. -/
+def functor : Cat.{v,u} ⥤ Grpd.{v,u} where
+  obj C := Grpd.of (Core C)
+  map F := F.core
+
+attribute [local instance] Groupoid.ofIsGroupoid in
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean]: It seems the missing instance is:
```lean
instance (X : Grpd) : Groupoid (Grpd.forgetToCat.obj X) := inferInstanceAs (Groupoid X)
```

File: Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean [hunk 2]
```diff
@@ -0,0 +1,67 @@
...
+/-- The adjunction between the forgetful functor from `Grpd` to `Cat` and the core
+functor from `Cat` to `Grpd`. -/
+def adjunction : Grpd.forgetToCat ⊣ functor :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean]: Could you add equational lemmas for the `homEquiv/unit/counit` of this adjunction (maybe only when they are applied to `Grpd.of` and `Cat.of`)?

File: Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean (hunk 1 above)
Comment (Jlh18) [reply Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean]: Thanks! I was never confident in which way to state this. Is it okay to put it as a global instance in `Grpd.lean`?

File: Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean (hunk 2 above)
Comment (Jlh18) [reply Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean]: at what depths should the `homEquiv` lemmas be stated? do we want `_homEquiv_apply_obj` or just `_homEquiv_apply`?

Comment (Jlh18) [reply Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean]: I decided on having both versions, but only adding the `@[simp]` attribute for the fully destructured equation

File: Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean [hunk 3]
```diff
@@ -0,0 +1,128 @@
...
+
+/-- The adjunction between the forgetful functor from `Grpd` to `Cat` and the core
+functor from `Cat` to `Grpd`. -/
+def adjunction : Grpd.forgetToCat ⊣ functor :=
+  Adjunction.mkOfHomEquiv
+    { homEquiv _ _ := functorEquiv
+      homEquiv_naturality_left_symm _ _ := rfl
+      homEquiv_naturality_right := functorToCore_comp_right }
+
+lemma adjunction_homEquiv_apply (F : G ⥤ C) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean]: I think we should make this lemma a simp lemma, so that some lemmas below become unnecessary.

File: Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean [hunk 4]
```diff
@@ -0,0 +1,128 @@
...
+lemma adjunction_homEquiv_symm_apply_obj (F : G ⥤ Core C) (X : G) :
+    ((adjunction.homEquiv (Grpd.of G) (Cat.of C)).symm F).obj X = (F.obj X).of :=
+  rfl
+
+@[simp]
+lemma adjunction_homEquiv_symm_apply_map (F : G ⥤ Core C) {X Y : G} (f : X ⟶ Y) :
+    ((adjunction.homEquiv (Grpd.of G) (Cat.of C)).symm F).map f = (F.map f).iso.hom :=
+  rfl
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean:68]: I was only thinking of these lemmas:
```lean
@[simp]
lemma adjunction_unit_app :
    adjunction.unit.app (Grpd.of G) = functorToCore (𝟭 _) := rfl

@[simp]
lemma adjunction_counit_app :
    (adjunction.counit.app (Cat.of C)) = inclusion C := rfl
```

File: Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean [hunk 5]
```diff
@@ -0,0 +1,84 @@
...
+
+noncomputable section
+
+namespace CategoryTheory
+namespace Core
+
+variable {G : Type u} [Groupoid.{v} G] {C : Type u} [Category.{v} C]
+
+/-- The functor from `Cat` to `Grpd` that takes the core of a category, on objects. -/
+def functor : Cat.{v,u} ⥤ Grpd.{v,u} where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean]: I would think that `CategoryTheory.Cat.core` would be a better name for this.

Comment (Jlh18) [reply Mathlib/CategoryTheory/Groupoid/Grpd/Core.lean]: Done. Should I also move the file into `Category/Cat`?

File: Mathlib/CategoryTheory/Core.lean [hunk 6]
```diff
@@ -208,18 +208,42 @@ lemma functorToCore_comp_right {C' : Type u₄} [Category.{v₄} C'] (H : G ⥤
   Functor.ext_of_iso (functorToCoreCompRightIso H F) (by cat_disch)
 
 /-- The functor `functorToCore (𝟭 G)` is a section of `inclusion G`. -/
-def inclusionCompFunctorToCoreIso : inclusion G ⋙ functorToCore (𝟭 G) ≅ 𝟭 (Core G) :=
+def inclusionCompFunctorToCoreIdIso : inclusion G ⋙ functorToCore (𝟭 G) ≅ 𝟭 (Core G) :=
   NatIso.ofComponents (fun _ ↦ Iso.refl _)
 
-theorem inclusion_comp_functorToCore : inclusion G ⋙ functorToCore (𝟭 G) = 𝟭 (Core G) :=
-  Functor.ext_of_iso inclusionCompFunctorToCoreIso (by cat_disch)
+theorem inclusion_comp_functorToCore_id : inclusion G ⋙ functorToCore (𝟭 G) = 𝟭 (Core G) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Core.lean:217]: Could you add deprecation aliases for these two name changes?

File: Mathlib/CategoryTheory/Groupoid/Grpd.lean
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Groupoid/Grpd.lean:1]: Shouldn't this be `CategoryTheory.Groupoid.Grpd.Basic`?

File: Mathlib/CategoryTheory/Groupoid/Grpd/Free.lean
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Groupoid/Grpd/Free.lean:1]: The creation of this file should be it's own separate PR, if it's independent of the core-forget stuff

File: Mathlib/CategoryTheory/Core.lean [hunk 7]
```diff
@@ -208,18 +208,48 @@ lemma functorToCore_comp_right {C' : Type u₄} [Category.{v₄} C'] (H : G ⥤
...
+  rfl
+
+/-- Applying `functorToCore` to `F ⋙ inclusion C` returns `F` itself. -/
+def functorToCoreApplyCompInclusionIso (F : G ⥤ Core C) :
+    functorToCore (F ⋙ inclusion C) ≅ F :=
+  NatIso.ofComponents (fun _ ↦ Iso.refl _)
+
+theorem functorToCore_apply_comp_inclusion (F : G ⥤ Core C) :
+    functorToCore (F ⋙ inclusion C) = F :=
+  Functor.ext_of_iso (functorToCoreApplyCompInclusionIso F) (by cat_disch)
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Core.lean:244]: I would prefer that these equalities of functors be inlined where needed, e.g. in `functorEquiv`, instead of stated as lemmas.

**Review by dagurtomas — COMMENTED** [review]
Looks almost ready to go, but I would suggest splitting this up so the commit history is nicer: 

First make a PR simply moving the file `CategoryTheory.Category.Grpd` to `CategoryTheory.Groupoid.Grpd.Basic`. That can be merged very quickly. On top of that, make three independent PRs: one adding the relevant deprecated module (that can also be merged very quickly), a second creating the file `CategoryTheory.Groupoid.Grpd.Free` and moving the stuff from `FreeGroupoidOfCategory`, and the third being the remainder of this one

**Comment by dagurtomas** [comment]
@Jlh18 Please ping me when you open the new PRs, and I'll try to get them merged as quickly as possible

File: Mathlib/CategoryTheory/Groupoid/Grpd.lean
Comment (Jlh18) [reply Mathlib/CategoryTheory/Groupoid/Grpd.lean:1]: I prefer this too. I will change it and add the new PRs
